US04072694
Preparation of 4-benzoyl-4-phenyl-1,3-dioxolane
About 273 grams of crude, wet α-methylolbenzoin prepared as described in Example I was refluxed under a Dean-Stark trap with 0.50 liters toluene for about two hours to remove about 50 ml. water. The reaction mixture was allowed to cool and 35 grams paraformaldehyde and 10 grams p-toluenesulfonic acid were added. The reaction mixture was heated for 45 minutes under controlled conditions such that the solvent refluxed below the trap and no water was collected. The temperature of the reaction mixture was then increased and about 16 ml. water was collected over a three-hour period. The mixture was allowed to cool and then saturated with ammonia gas. The resulting salt precipitate was removed by filtration and benzene solvent removed under vacuum from the residual yellow solution containing the solid reaction product. The crude solid reaction product was recrystallized from 1.6 l. of boiling hexane. 156 grams of recrystallized produce having m.p. of 66°-66.5° C was obtained.

reactant | α-methylolbenzoin | C(O)C(C(C1=CC=CC=C1)=O)(O)C1=CC=CC=C1 | C15H14O3
reactant | toluene | 0.50 liters | C1(=CC=CC=C1)C | C7H8
product | 4-benzoyl-4-phenyl-1,3-dioxolane | C(C1=CC=CC=C1)(=O)C1(OCOC1)C1=CC=CC=C1 | C16H14O3
